### PR TITLE
[Merged by Bors] - feat: API for `Minpoly.toAdjoin` and friends

### PR DESCRIPTION
**Pull request by artie2000**
* Replace `simps!` invocations on `AdjoinRoot.Minpoly.toAdjoin` and `minpoly.equivAdjoin` with principled API
* Create API for `AlgEquiv.adjoinSingletonEquivAdjoinRootMinpoly`

The auto-generated `simps!` lemmas unfolded the expressions too far for `simp` to be able to continue simplifying them. A good example of the difference is the proof of `Minpoly.toAdjoin.apply_X`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean [hunk 1]
```diff
@@ -141,15 +141,22 @@ variable {x : S}
...
 
 /-- The algebra isomorphism `AdjoinRoot (minpoly R x) ≃ₐ[R] adjoin R x` -/
-@[simps!]
 def equivAdjoin (hx : IsIntegral R x) : AdjoinRoot (minpoly R x) ≃ₐ[R] adjoin R ({x} : Set S) :=
   AlgEquiv.ofBijective (Minpoly.toAdjoin R x)
     ⟨minpoly.ToAdjoin.injective hx, Minpoly.toAdjoin.surjective R x⟩
 
+@[simp]
+theorem equivAdjoin_toAlgHom (hx : IsIntegral R x) :
+  equivAdjoin hx = Minpoly.toAdjoin R x := rfl
```
Comment (YaelDillies) [inline Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean]:
```suggestion
    equivAdjoin hx = Minpoly.toAdjoin R x := rfl
```
/maybe it fits on one line?

File: Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean [hunk 2]
```diff
@@ -141,15 +141,22 @@ variable {x : S}
...
+
+@[simp]
+theorem equivAdjoin_apply (hx : IsIntegral R x) (a) :
+  equivAdjoin hx a = Minpoly.toAdjoin R x a := rfl
```
Comment (YaelDillies) [inline Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean]:
```suggestion
@[simp, norm_cast]
theorem coe_equivAdjoin (hx : IsIntegral R x) :
    ⇑(equivAdjoin hx) = Minpoly.toAdjoin R x := rfl
```

File: Mathlib/RingTheory/Adjoin/Field.lean [hunk 3]
```diff
@@ -36,7 +36,17 @@ def AlgEquiv.adjoinSingletonEquivAdjoinRootMinpoly {R : Type*} [CommRing R] [Alg
...
+
+@[simp]
+theorem AlgEquiv.adjoinSingletonEquivAdjoinRootMinpoly_symm_toAlgHom {R : Type*} [CommRing R]
+    [Algebra F R] (x : R) :
+    (adjoinSingletonEquivAdjoinRootMinpoly F x).symm = AdjoinRoot.Minpoly.toAdjoin F x := rfl
+
+@[simp]
+theorem AlgEquiv.adjoinSingletonEquivAdjoinRootMinpoly_symm_apply {R : Type*} [CommRing R]
+    [Algebra F R] (x : R) (a) :
+    (adjoinSingletonEquivAdjoinRootMinpoly F x).symm a = AdjoinRoot.Minpoly.toAdjoin F x a := rfl
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Adjoin/Field.lean]:
```suggestion
@[simp, norm_cast]
theorem AlgEquiv.coe_adjoinSingletonEquivAdjoinRootMinpoly_symm {R : Type*} [CommRing R]
    [Algebra F R] (x : R) :
    ⇑(adjoinSingletonEquivAdjoinRootMinpoly F x).symm = AdjoinRoot.Minpoly.toAdjoin F x := rfl
```

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 4]
```diff
@@ -558,22 +558,18 @@ open Algebra Polynomial
...
-  rfl
+@[simp]
+theorem Minpoly.toAdjoin_apply (a : AdjoinRoot (minpoly R x)) :
+    Minpoly.toAdjoin R x a = liftHom (minpoly R x) ⟨x, self_mem_adjoin_singleton R x⟩
+      (by simp [← Subalgebra.coe_eq_zero, aeval_subalgebra_coe]) a := rfl
 
-theorem Minpoly.toAdjoin.apply_X :
-    Minpoly.toAdjoin R x (mk (minpoly R x) X) = ⟨x, self_mem_adjoin_singleton R x⟩ := by
-  simp [toAdjoin]
+theorem Minpoly.toAdjoin.apply_X : Minpoly.toAdjoin R x (mk (minpoly R x) X) = x := by simp
```
Comment (YaelDillies) [inline Mathlib/RingTheory/AdjoinRoot.lean]:
```suggestion
theorem Minpoly.coe_toAdjoin_mk_X : Minpoly.toAdjoin R x (mk (minpoly R x) X) = x := by simp
```
or something like that

File: Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean (hunk 2 above)
Comment (artie2000) [reply Mathlib/FieldTheory/Minpoly/IsIntegrallyClosed.lean]: the RHS is also a coercion, so it's not norm cast able

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 5]
```diff
@@ -558,28 +558,24 @@ open Algebra Polynomial
...
-  rfl
+@[simp]
+theorem Minpoly.coe_toAdjoin :
+    ⇑(Minpoly.toAdjoin R x) = liftHom (minpoly R x) ⟨x, self_mem_adjoin_singleton R x⟩
+      (by simp [← Subalgebra.coe_eq_zero, aeval_subalgebra_coe]) := rfl
 
-theorem Minpoly.toAdjoin.apply_X :
-    Minpoly.toAdjoin R x (mk (minpoly R x) X) = ⟨x, self_mem_adjoin_singleton R x⟩ := by
-  simp [toAdjoin]
+theorem Minpoly.coe_toAdjoin_mk_X : Minpoly.toAdjoin R x (mk (minpoly R x) X) = x := by simp
```
Comment (Vierkantor) [inline Mathlib/RingTheory/AdjoinRoot.lean]: Could you please add `@[deprecated] alias` declarations for the deleted/renamed declarations here? As far as I can tell:

* `Minpoly.toAdjoin_apply` and `Minpoly.toAdjoin_apply'` became `Minpoly.coe_toAdjoin`
* `Minpoly.toAdjoin.apply_X` became `Minpoly.coe_toAdjoin_mk_X`

(I think it's fine to add them as aliases even though the type changed, because I assume they are mostly used in `simp`/`rw` anyway, where they will remain useful in the same form.)

**Review by Vierkantor — APPROVED** [review]
Nice work!

bors d+
